US06316637B1
2-Diphenylmethyl-4-bromo-5-aminobenzimidazole.
To a solution of 1.1 g (3.7 mmol) of 2-diphenylmethyl-5-aminobenzimidazole in 50 ml of AcOH was added 0.07 ml (1.3 mmol) of Br2 dropwise and resulting reaction mixture was stirred for 1 h at 25° C. Reaction mixture was concentrated in vacuo and purified on silica gel column chromatography (5% MeOH/EtOAC) to yield 0.42 g (1.1 mmol, 86%) of the desired product.

reactant | 2-diphenylmethyl-5-aminobenzimidazole | 3.7 mmol, 1.1 g | C1(=CC=CC=C1)C(C=1NC2=C(N1)C=CC(=C2)N)C2=CC=CC=C2 | C20H17N3
reactant | Br2 | 1.3 mmol, 0.07 ml | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 2-Diphenylmethyl-4-bromo-5-aminobenzimidazole | 1.1 mmol, 0.42 g, 86% | C1(=CC=CC=C1)C(C=1NC2=C(N1)C=CC(=C2Br)N)C2=CC=CC=C2 | C20H16BrN3
